US05654331
N-Morpholinyl-2-hydroxy-4-[2-hydroxy-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl) ethoxy]benzamide
Starting from 5.5 g (12 mmol) of N-morpholinyl-2-hydroxy-4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoylmethoxy)benzamide in a manner analogous to Example 10 and by recrystallisation in 10 volume of ethanol, 4.24 g (77%) of the expected product of melting point 153° C. are collected.

reactant | N-morpholinyl-2-hydroxy-4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoylmethoxy)benzamide | 12 mmol, 5.5 g | N1(CCOCC1)NC(C1=C(C=C(C=C1)OCC(=O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)O)=O | C27H34N2O5
solvent | ethanol | C(C)O | C2H6O
product | N-Morpholinyl-2-hydroxy-4-[2-hydroxy-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl) ethoxy]benzamide | 4.24 g, 77% | N1(CCOCC1)NC(C1=C(C=C(C=C1)OCC(C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)O)O)=O | C27H36N2O5
